US08309725B2
Preparation of 1-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}propan-1-one
Under N2, 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (40.7 mg, 0.10 mmol) was dissolved in absolute CH2Cl2 (5 ml) and propionyl chloride (11.4 mg, 0.12 mmol) was added dropwise. The mixture was stirred at room temperature for 2.5 hours and then evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9:1:0.1, l=16 cm, V=3 ml). A yellow resin was obtained.

reactant | 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.10 mmol, 40.7 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | propionyl chloride | 0.12 mmol, 11.4 mg | C(CC)(=O)Cl | C3H5ClO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}propan-1-one | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)C(CC)=O | C23H31Cl2N3O2
